US08198299B2
A mixture of 2-cyclopropyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (490 mg, 2.00 mmol), methyl 4-(4-(5-bromothiazol-2-yl)-tetrahydro-2H-pyran-4-yl)benzoate (382 mg, 1.00 mmol), potassium carbonate (276 mg, 2.0 mmol), and 1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (PdCl2(dppf), 146 mg, 0.20 mmol) in toluene/ethanol/water (2 mL/1 mL/1 mL) was heated in microwave (Emry's Optimizer) at 110 C for 20 minutes. The reaction mixture was cooled to room temperature and then diluted with EtOAc and filtered. The filtrate was concentrated and purified by Flash Chromatography (SiO2, 95% EtOAC:5% MeOH) to give methyl 4-(4-(5-(6-cyclopropylpyridin-3-yl)thiazol-2-yl)-tetrahydro-2H-pyran-4-yl)benzoate. MS found for C24H24N2O3S as (M+H)+421.42. To the above ester in MeOH/THF/dioxane (1:1:1) (9 mL) was added 3N NaOH (5.0 mL) and stirred at 55° C. After 14 hours, the reaction mixture was concentrated, diluted with water, and neutralized with 6N HCl. The formed solids were filtered and washed with water and dried. MS found for C23H22N2O3S as (M+H)+407.04. The acid was used further without purification.

reactant | 2-cyclopropyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 2.00 mmol, 490 mg | C1(CC1)C1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C14H20BNO2
reactant | methyl 4-(4-(5-bromothiazol-2-yl)-tetrahydro-2H-pyran-4-yl)benzoate | 1.00 mmol, 382 mg | BrC1=CN=C(S1)C1(CCOCC1)C1=CC=C(C(=O)OC)C=C1 | C16H16BrNO3S
reactant | potassium carbonate | 2.0 mmol, 276 mg | C([O-])([O-])=O.[K+].[K+]
solvent | toluene ethanol water | 2 mL | C1(=CC=CC=C1)C.C(C)O.O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | dichloropalladium(II) | 0.20 mmol, 146 mg | Cl[Pd]Cl
product | methyl 4-(4-(5-(6-cyclopropylpyridin-3-yl)thiazol-2-yl)-tetrahydro-2H-pyran-4-yl)benzoate | C1(CC1)C1=CC=C(C=N1)C1=CN=C(S1)C1(CCOCC1)C1=CC=C(C(=O)OC)C=C1 | C24H24N2O3S
